US05071841
In THF (10 ml) was dissolved 6,7-dimethyl3,4-dihydro-1H-2-benzothiopyran-4-one-1-carboxylic acid (0.473 g) followed by addition of oxalyl chloride (0.305 g) and, then, DMF (1 drop). The mixture was stirred at room temperature for 2 hours. This reaction mixture was added to aqueous ammonia (20 ml)--ethyl acetate (40 ml) and the whole mixture was stirred at room temperature for 30 minutes. The ethyl acetate layer was then separated, washed with water, dried (MgSO4) and the solvent was distilled off to give 6,7-dimethyl-3,4-dihydro-1H-2-benzothiopyran-4-one-1-carboxamide (0.38 g, 81%). Recrystallization from ethyl acetate gave colorless plates melting at 197°-198° C.

reactant | 6,7-dimethyl3,4-dihydro-1H-2-benzothiopyran-4-one-1-carboxylic acid | 0.473 g | CC=1C(=CC2=C(C(CSC2C(=O)O)=O)C1)C | C12H12O3S
reactant | oxalyl chloride | 0.305 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | 20 ml | N | H3N
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 6,7-dimethyl-3,4-dihydro-1H-2-benzothiopyran-4-one-1-carboxamide | 0.38 g, 81% | CC=1C(=CC2=C(C(CSC2C(=O)N)=O)C1)C | C12H13NO2S
